US04487929
A solution of 3.52 g (0.01 mol) of methyl 2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-2[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate in 50 ml of 1M hydrochloric acid and 50 ml of methanol was stirred at room temperature for 1.5 hours. The solvent was removed by evaporation in vacuo. The solid residue was taken up in dichloromethane, dried over magnesium sulfate and evaporated to give 2.6 g (97%) of methyl 2,3,5,8-tetrahydro-2-(2-hydroxyethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate having a melting point of 97°-99° C. (from diethyl ether).

reactant | methyl 2,3,5,8-tetrahydro-2-methyl-1,3-dioxo-2[2-(tetrahydro-2-pyranyloxy)ethyl]-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 0.01 mol, 3.52 g | CC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)CCOC1OCCCC1 | C17H24N2O6
solvent | hydrochloric acid | 1M, 50 ml | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | methyl 2,3,5,8-tetrahydro-2-(2-hydroxyethyl)-2-methyl-1,3-dioxo-1H-pyrazolo[1,2-a]pyridazine-5-carboxylate | 2.6 g, 97% | OCCC1(C(N2N(CC=CC2C(=O)OC)C1=O)=O)C | C12H16N2O5
